Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Allergies/ADRs on File
 
Attending: ___.
 
Chief Complaint:
hypoxic hypercarbic respiratory failure
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
___ male with history of MI, COPD, recent pneumonia for 
which he was admitted last month, and schizophrenia, presenting 
as a transfer from ___ for COPD exacerbation. 

Patient's history was discussed with health care proxy ___, 
who is his sister.  She states that for the last three weeks 
since being discharged, the patient has been taking very poor 
care of himself, eating only peanut butter and Ramen noodles, 
not getting out of bed, not responding to phone calls.  He 
refused to use his BiPAP machine and has been smoking almost 
continuously. 
Patient has not been taking phone calls from his PCP, who today 
decided to send him on a ___ to ___ due to inability 
to care for self.  

On presentation to the ED at ___ his O2 sats were in the 
___ with a pH of 7.24 and PcO2 of 92. CXR showed patchy airspace 
disease, possible RUL consolidation. CT face with preseptal 
cellulitis.  He was treated with vancomycin, cefepime and 
solumedrol. His sister and HCP confirmed that he is DNR/DNI 
would not want to be intubated.  In the ___ ED, he was found 
to have
agonal breathing and was not triggering the BiPAP machine.  

___ has had numerous discussions with patient about his end 
of life wishes, including during his recent admission and at 
home after discharge.  Based on these conversations, she is 
confident that he would not want a breathing tube, CPR, or other 
invasive measures at end of life, and that he would want comfort 
oriented care to minimize suffering.  

 
Past Medical History:
MI
COPD
Schizophrenia
  
 
Social History:
___
Family History:
NC 
 
Physical Exam:
ADMISSION EXAM:
===============
VS: reviewed in metavision
GEN:  Comfortable on BiPAP 
CV:  RRR
RESP:  Diminished breath sounds bilaterally 
GI:  Soft NTND
SKIN: Facial swelling/drainage from eyes   
NEURO:  Altered, somnolent, responds intermittently to questions
with head nod
PSYCH:  NAD 

DISCHARGE EXAM:
================
Expired
 
Pertinent Results:
ADMISSION LABS:
___ 06:30PM   PLT COUNT-114*
___ 06:30PM   NEUTS-92.8* LYMPHS-4.8* MONOS-1.7* EOS-0.0* 
BASOS-0.2 IM ___ AbsNeut-5.62 AbsLymp-0.29* AbsMono-0.10* 
AbsEos-0.00* AbsBaso-0.01
___ 06:30PM   WBC-6.1 RBC-6.01 HGB-17.5 HCT-61.6* MCV-103* 
MCH-29.1 MCHC-28.4* RDW-19.0* RDWSD-68.6*
___ 06:30PM   estGFR-Using this
___ 06:30PM   GLUCOSE-127* UREA N-25* CREAT-1.2 SODIUM-134* 
POTASSIUM-5.9* CHLORIDE-89* TOTAL CO2-29 ANION GAP-___ yo man with COPD, psychiatric disease and recent decline (PCP 
felt he was not able to care for himself) who presented to an 
OSH with acute hypoxemic respiratory failure, transferred here 
for ICU care. Upon arrival to the ICU he was severely hypoxemic 
with O2 sat low ___ despite supplemental oxygen.  Non-invasive 
ventilation was trialed with no significant improvement.  The 
overnight team had a conversation with his healthcare proxy who 
had had clear conversations with the patient prior that he would 
not want intubation.  Given his lack of improvement and 
persistent respiratory failure with NIV, as well as renewed 
discussion with HCP upon transfer to the medicine floor, his 
care was transitioned to CMO. He passed away the following day 
with family at the bedside (sister ___.

>30 min spent on dc related activities.

 
Medications on Admission:
Aspirin 81mg 
Atorvastatin 80mg 
FInasteride 5mg 
Lasix 20mg 
Imdur 30mg 
Latanoprost 1drop daily 
Lisinopril 5mg 
Metoprolol succinate 25 mg 
Tamsulosin 0.8mg 
Tiotropium Bromide 2 puff daily 
Albuterol sulfate 2 puff Q4H PRN
 
Discharge Medications:
N/A
 
Discharge Disposition:
Expired
 
Discharge Diagnosis:
COPD exacerbation
Coronary artery disease
Schizophrenia

 
Discharge Condition:
Expired

 
Discharge Instructions:
Expired
 
Followup Instructions:
___